***********************************************************
*
* BAT85
*
* Nexperia
*
* Schottky barrier diode
* IFmax = 200mA (average)
* VRmax = 30V
* VFmax = 400mV    @ IF = 10mA
* IRmax = 2µA      @ VR = 25V
* 
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOD68
*
* Package Pin 1: Cathode
* Package Pin 2: Anode
*
*
* Extraction date (week/year): #
* Simulator: SPICE2
*
***********************************************************
*
* The resistor R1  
* does not reflect physical devices 
* but improve only modeling in the 
* reverse mode of operation.
*
.SUBCKT BAT85 1 2
D1 1 2 BAT85
R1 1 2 5.416E+7 
* 
.MODEL BAT85 D 
+ IS = 2.076E-7 
+ N = 1.023 
+ BV = 33 
+ IBV = 10E-6 
+ RS = 2.326 
+ CJO = 1.21E-11 
+ VJ = 0.1319 
+ M = 0.2904 
+ EG = 0.69 
+ XTI = 2 
.ENDS
*